US04241071
1.5 g of 1-methyl-4[α-(2-fluoro-4-methylphenyl)-2-tolyl]-4-piperidinol, Example 4, is treated carefully with 7 ml of benzoyl chloride with stirring and cooling. The reaction mixture is stirred for 16 hours at ambient temperature and then diluted with 15 ml of ether. The resulting precipitate is filtered, washed with ether, converted to the free base which is column chromatographed on an alumina column using ether as the eluant. The free base is converted to its hydrogen chloride salt which is recrystallized from a methanol-acetone-ether mixture to give a white powder, mp 218°-219° C. of 4-benzoyloxy-4-[α-(2-fluoro-4-methylphenyl)-2-tolyl]-1-methylpiperidine hydrochloride.

reactant | 1-methyl-4[α-(2-fluoro-4-methylphenyl)-2-tolyl]-4-piperidinol | 1.5 g | CN1CCC(CC1)(O)C1=C(C=CC=C1)CC1=C(C=C(C=C1)C)F | C20H24FNO
reactant | benzoyl chloride | 7 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ether | 15 ml | CCOCC | C4H10O
product | 4-benzoyloxy-4-[α-(2-fluoro-4-methylphenyl)-2-tolyl]-1-methylpiperidine hydrochloride | Cl.C(C1=CC=CC=C1)(=O)OC1(CCN(CC1)C)C1=C(C=CC=C1)CC1=C(C=C(C=C1)C)F | InChI=1S/C27H28FNO2.ClH/c1-20-12-13-23(25(28)18-20)19-22-10-6-7-11-24(22)27(14-16-29(2)17-15-27)31-26(30)21-8-4-3-5-9-21;/h3-13,18H,14-17,19H2,1-2H3;1H
